US04585796
p-(2-Bromoethyl)-acetophenone (J.A.C.S. 62, 1940, 1435) was reacted with sodium azide in dimethyl sulphoxide to give p-(2-azidoethyl)acetophenone. Oxidation with sodium hypobromide gave p-(2-azidoethyl)benzoic acid (melting point 130°-131°, from acetone/hexane) which was converted with thionyl chloride into the corresponding acid chloride. Treatment of the acid chloride with ammonia gave p-(2-azidoethyl)benzamide. Treatment with triphenylphosphine and hydrolysis gave p-(2-aminoethyl)benzamide of melting point 132°-133° (from ethanol).

reactant | p-(2-Bromoethyl)-acetophenone | BrCCC1=CC=C(C=C1)C(C)=O | C10H11BrO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | p-(2-azidoethyl)acetophenone | N(=[N+]=[N-])CCC1=CC=C(C=C1)C(C)=O | C10H11N3O
